US04433152
A mixture of 2.5 g of 1-amidino-4-piperidinebutyric acid hydrochloride and 2.9 g of diphenylsulfite was stirred at room temperature for 3 hours in a solution of 14 ml of dry dimethylformamide and 7 ml of dry pyridine. The solvent was removed under reduced pressure. Dry ether was added to the residue, and the mixture was stirred overnight to give crystals. The crystals were recrystallized from methanol-ether to obtain 2.3 g (yield: 70%) of phenyl 1-amidino-4-piperidinebutyrate hydrochloride as pale yellow crystals having a melting point of 166° to 167° C.

reactant | 1-amidino-4-piperidinebutyric acid hydrochloride | 2.5 g | Cl.C(N)(=N)N1CCC(CC1)CCCC(=O)O
reactant | diphenylsulfite | 2.9 g | C1(=CC=CC=C1)OS(=O)OC1=CC=CC=C1 | C12H10O3S
reactant | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
product | phenyl 1-amidino-4-piperidinebutyrate hydrochloride | 2.3 g, yield: 70% | Cl.C(N)(=N)N1CCC(CC1)CCCC(=O)OC1=CC=CC=C1 | InChI=1S/C16H23N3O2.ClH/c17-16(18)19-11-9-13(10-12-19)5-4-8-15(20)21-14-6-2-1-3-7-14;/h1-3,6-7,13H,4-5,8-12H2,(H3,17,18);1H
